US07786132B2
5,5-dimethyl-1-(2-{4-[5-(m-tolylthio)thiophen-2-yl]pyrimidin-2-ylamino}ethyl)imidazolidine-2,4-dione
The title compound was prepared from 1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethyl-imidazolidine-2,4-dione and 3-methylthiophenol in a manner analogous to Example 259. MS (M+H)+ 454.

reactant | 1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethyl-imidazolidine-2,4-dione | IC1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O | C15H16IN5O2S
reactant | 3-methylthiophenol | CC=1C=C(C=CC1)S | C7H8S
product | 5,5-dimethyl-1-(2-{4-[5-(m-tolylthio)thiophen-2-yl]pyrimidin-2-ylamino}ethyl)imidazolidine-2,4-dione | CC1(C(NC(N1CCNC1=NC=CC(=N1)C=1SC(=CC1)SC=1C=C(C=CC1)C)=O)=O)C | C22H23N5O2S2
